Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Bactrim / Levaquin / Flagyl / ciprofloxacin
 
Attending: ___.
 
Chief Complaint:
Chronic cholangitis 
 
Major Surgical or Invasive Procedure:
___: Open cholecystectomy

 
History of Present Illness:
An ___ woman with chronic recurrent cholangitis due to a 
large gallbladder and common bile duct burden of recurrent 
gallstones.  Although
successful, endoscopic therapy to durably protect her from 
cholangitis event has failed and she presents now for surgical 
open cholecystectomy.
 
Past Medical History:
CKD3 cr 1.4
HTN
OA neck
Gout
Dementia-on Namenda.  Aricept d/c in ___ due to diarrhea.
Frequent UTIs.  last ___.
GIB ___ and ___ 4 units of PRBCs Declined
colonoscopy.  EGD unrevealing per daughter.
GERD
___
s/p Hysterectomy
s/p Bladder sling
s/P ERCps, stent placement

 
Social History:
___
Family History:
___ contributory 
 
Physical Exam:
VS: 97.4 PO  135 / 55 L Sitting RR 18   99% RA 
GEN: NAD, resting comfortably, AAOx1 (self)
HEENT: NCAT, EOMI, anicteric  
CV: RRR, +S1S2, 
PULM: no respiratory distress,
ABD: soft, appropriately TTP around wound site, vac in place, 
non-distended, no rebound or guarding, no mass, no hernia  
INCISION: wound vac in tact
EXT: warm, well-perfused, no edema
NEURO: Alert, no focal neurologic deficits  

 
Pertinent Results:
___ 03:00PM BLOOD WBC-6.4 RBC-3.34* Hgb-10.5* Hct-31.0* 
MCV-93 MCH-31.4 MCHC-33.9 RDW-13.8 RDWSD-46.8* Plt ___
___ 04:06AM BLOOD WBC-14.5* RBC-2.91* Hgb-9.5* Hct-28.1* 
MCV-97 MCH-32.6* MCHC-33.8 RDW-14.3 RDWSD-49.3* Plt ___
___ 07:00AM BLOOD WBC-13.1* RBC-2.87* Hgb-9.3* Hct-27.1* 
MCV-94 MCH-32.4* MCHC-34.3 RDW-14.7 RDWSD-50.4* Plt ___
___ 10:54AM BLOOD WBC-14.0* RBC-2.85* Hgb-9.0* Hct-26.7* 
MCV-94 MCH-31.6 MCHC-33.7 RDW-14.6 RDWSD-50.0* Plt ___
___ 09:59AM BLOOD WBC-12.2* RBC-2.97* Hgb-9.4* Hct-28.3* 
MCV-95 MCH-31.6 MCHC-33.2 RDW-14.6 RDWSD-51.3* Plt ___
___ 04:30AM BLOOD WBC-18.0* RBC-2.77* Hgb-8.7* Hct-25.5* 
MCV-92 MCH-31.4 MCHC-34.1 RDW-14.5 RDWSD-48.9* Plt ___
___ 04:00AM BLOOD WBC-27.6* RBC-2.78* Hgb-8.8* Hct-25.0* 
MCV-90 MCH-31.7 MCHC-35.2 RDW-14.4 RDWSD-47.6* Plt ___
___ 07:30AM BLOOD WBC-23.6* RBC-2.82* Hgb-8.8* Hct-25.5* 
MCV-90 MCH-31.2 MCHC-34.5 RDW-14.3 RDWSD-47.5* Plt ___
___ 07:25AM BLOOD WBC-21.7* RBC-2.74* Hgb-8.6* Hct-25.0* 
MCV-91 MCH-31.4 MCHC-34.4 RDW-14.6 RDWSD-48.3* Plt ___
___ 05:33AM BLOOD WBC-16.9* RBC-2.74* Hgb-8.7* Hct-24.8* 
MCV-91 MCH-31.8 MCHC-35.1 RDW-14.6 RDWSD-47.9* Plt ___
___ 06:07AM BLOOD WBC-16.9* RBC-2.69* Hgb-8.5* Hct-24.1* 
MCV-90 MCH-31.6 MCHC-35.3 RDW-14.6 RDWSD-47.1* Plt ___
___ 10:10AM BLOOD WBC-16.5* RBC-2.71* Hgb-8.6* Hct-24.4* 
MCV-90 MCH-31.7 MCHC-35.2 RDW-14.5 RDWSD-46.7* Plt ___
___ 05:26AM BLOOD WBC-13.4* RBC-3.13* Hgb-9.6* Hct-27.5* 
MCV-88 MCH-30.7 MCHC-34.9 RDW-14.9 RDWSD-46.6* Plt ___
___ 03:00PM BLOOD Glucose-134* UreaN-28* Creat-1.4* Na-142 
K-3.8 Cl-105 HCO3-21* AnGap-16
___ 07:00AM BLOOD Glucose-73 UreaN-34* Creat-1.3* Na-140 
K-3.9 Cl-105 HCO3-20* AnGap-15
___ 04:50AM BLOOD Glucose-85 UreaN-21* Creat-1.1 Na-140 
K-4.1 Cl-107 HCO3-21* AnGap-___ 04:00AM BLOOD Glucose-87 UreaN-20 Creat-1.1 Na-137 
K-3.6 Cl-104 HCO3-19* AnGap-14
___ 07:25AM BLOOD Glucose-76 UreaN-21* Creat-1.3* Na-138 
K-4.1 Cl-103 HCO3-17* AnGap-18
___ 06:07AM BLOOD Glucose-88 UreaN-21* Creat-1.5* Na-137 
K-3.9 Cl-101 HCO3-18* AnGap-18
___ 05:26AM BLOOD Glucose-82 UreaN-20 Creat-1.3* Na-135 
K-4.0 Cl-102 HCO3-19* AnGap-14
___ 10:10AM BLOOD ALT-14 AST-37 AlkPhos-108* TotBili-0.5
___ 07:45PM BLOOD ALT-8 AST-37 AlkPhos-193* TotBili-0.7
___ 07:30AM BLOOD ALT-7 AST-35 AlkPhos-198* TotBili-0.8
___ 05:33AM BLOOD ALT-10 AST-41* AlkPhos-245* TotBili-0.8
 
Brief Hospital Course:
The patient with history of chronic recurrent cholangitis was 
admitted to the General Surgical Service for elective 
cholecystectomy. On ___, the patient underwent open 
cholecystectomy, which went well without complication (reader 
referred to the Operative Note for details). After a brief, 
uneventful stay in the PACU, the patient arrived on the floor 
NPO, on IV fluids, with a foley catheter and a JP drain in 
place, and epidural for pain control. The patient was 
hemodynamically stable.
Post-operative pain was initially well controlled with epidural 
analgesia, which was converted to oral pain medication when 
tolerating clear liquids. The patient was started on sips of 
clears on POD# 1. Diet was progressively advanced as tolerated 
to a regular diet by POD# 2. The epidural and foley catheter was 
discontinued at midnight of POD# 4. The patient subsequently 
voided without problem. JP was discontinued on POD# 4 as the 
output was low. On POD 6, patient was noticed to have drainage 
from lateral aspect of incision. Dressing was placed over the 
incision. On POD 7, drainage increased, patient's labs were 
noticeable for WBC of 18K. Patient's wound was opened and 
cultured. Dry packing was placed into the wound after wound was 
irrigated, patient was started on Zosyn. On POD 8, patient's WBC 
was 27.6, patient was pan cultured, she underwent liver US, 
which demonstrated post operative changes and was negative for 
fluid collection. Urine cultures were positive for E.coli. On 
POD 10, patient developed loose stool, her C. diff was negative. 
She underwent Chest CT secondary to increased SOB on exertion. 
CT demonstrated small pulmonary effusions and atelectasis, 
patient was given 20 of Lasix IV to diuresis. On the following 
days, patient's WBC started to downward, she remained afebrile. 
ID was consulted for antibiotics recommendations. They 
recommended that the patient be on zosyn for a 2 week period, 
beginning from ___. For this reason, a picc line was placed in 
the patient. A c. diff was sent on this patient which was 
negative. On post op day ___, a vac was placed on the 
patients wound and there was no leak. This vac will need to be 
changed every 3 days. On post op day 14 the patient was 
discharged to rehab. 

During admission, patient was follow by Geriatric team for 
managing of acute delirium and insomnia. Geriatric 
recommendations were followed, patient's mental status returned 
to baseline, and insomnia improved. Patient was evaluated by 
physical therapy and was discharged in rehabilitation to 
continue recovery. 

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating with assist, voiding without assistance, and 
pain was well controlled. The patient received discharge 
teaching and follow-up instructions with understanding 
verbalized and agreement with the discharge plan.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Allopurinol ___ mg PO ___ 
2. Memantine 5 mg PO BID 
3. Pantoprazole 20 mg PO Q12H 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO TID  
2.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H  
3.  OxyCODONE (Immediate Release) 2.5 mg PO Q6H:PRN pain 
RX *oxycodone 5 mg 0.5 (One half) tablet(s) by mouth every six 
(6) hours Disp #*15 Tablet Refills:*0 
4.  Piperacillin-Tazobactam 2.25 g IV Q6H 
RX *piperacillin-tazobactam 2.25 gram 2.25 g IV every six (6) 
hours Disp #*34 Vial Refills:*0 
5.  Ramelteon 8 mg PO QHS scheduled 
Should be given 30 minutes before bedtime  
6.  TraZODone 12.5 mg PO QHS:PRN insomnia  
7.  Allopurinol ___ mg PO ___  
8.  Memantine 5 mg PO BID  
9.  Pantoprazole 20 mg PO Q12H  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
1. Chronic recurrent cholangitis
2. Wound infection
3. Pulmonary effusions 

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Ms. ___,
You were admitted to the surgery service at ___ for planned 
cholecystectomy. Your recovery was complicated by wound 
infection, which required IV antibiotics and wound VAC 
placement. You are now safe to be discharged in rehabilitation 
to complete your recovery with the following instructions:
.
Please call Dr. ___ office at ___ or Office RNs 
at ___ if you have any questions or concerns.
.
Please resume all regular home medications , unless specifically 
advised not to take a particular medication.  Also, please take 
any new medications as prescribed.
Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.  Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon, who will instruct you further regarding activity 
restrictions.
Avoid driving or operating heavy machinery while taking pain 
medications.
Please follow-up with your surgeon and Primary Care Provider 
(PCP) as advised.
.
Incision Care:
*Your wound VAC will be changed by ___ nurses every 72 hours. 
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water.  Gently pat the area dry.
 

 
Followup Instructions:
___